US04715994
Preparation of 1-Benzyloxycarbonylaminoethylphosphonous acid methyl ester
1-Benzyloxycarbonylaminoethylphosphonous acid, prepared by the method of E. K. Baylis et al. [J. Chem. Soc., Perkin Trans, 2845-2853 (1984)] was esterified with diazomethane in an ether solution prepared by a method of F. Arndt [Organic Syn. Coll. V. II 165-167 (1943)]. The compound was purified by standard chromatography on silica gel. TLC (silica, 9:1, ethyl acetate:acetonitrile) Rf =0.51 NMR (CDCl3, TMS) δ 1.2 and 1.5 (2d, 3H); 2.2 and 10.1 (d, 1H); 3.6 (d, 3H); 3.9 (m, 1H); 5.0 (s, 2H); 6.0-6.6 (overlapping doublets, 1H); 7.2 (s, 5H).

reactant | 1-Benzyloxycarbonylaminoethylphosphonous acid | C(C1=CC=CC=C1)OC(=O)NC(C)P(O)O | C10H14NO4P
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 1-Benzyloxycarbonylaminoethylphosphonous acid methyl ester | COP(O)C(C)NC(=O)OCC1=CC=CC=C1 | C11H16NO4P
